Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],4.59830857859
[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.90995565449
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.64026057641
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])=[O:7].[O:1]([C:5]([H:6])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15])[H:8],0.6880269379620001
[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:7][H:8]>>[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2][O:7][H:8],3.51418888409
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.2299400419
[C:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2](=[C:3](\[H:4])[O:5][C:6][H:7])\[C:8]([H:9])([H:10])[H:11],4.84916246032
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14],-3.19900610158
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],5.14586567977
[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.06859105284
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])=[C:7][O:8][H:9],-0.483648767261
[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:9]([H:10])([H:11])=[C:12][H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8],-2.8500958184400003
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],1.8758370976700005
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],2.03019422226
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](\[H:4])(=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.9006184589700004
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.4300692252899999
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11],-0.4007387474989999
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[O:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-1.59006224859
[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:8]([H:9])[O:10][H:11].[H:7]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-3.94778616226
[H:1][O:2][C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:9],2.76440136051
[H:1][C:2]=[C:3]([H:4])[C:5]([O:7][O:8][H:9])=[C:10]([H:11])[H:12].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12],-1.42870493562
[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.92788673391
[H:10].[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.9041499344
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],4.62968792694
[C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.964469004030002
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-3.4835491703199994
[H:4].[O:1][C:2]#[C:3][C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.26882101197
[O:1][C:2]([H:3])([H:4])/[C:5](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:8][H:9],4.752085128469999
[H:1][O:2][C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-0.516950834451
